* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 15.9
R1 n1 a 5
R2 a nc 5
V2 nc nd DC 28.8
R3 nd ne 2
V3 b ne DC 14
V4 nf b DC 14.4
R4 nf 0 3
.op
.print dc V(a) V(b)
.end